US09353086B2
2-(6-Chloropyridin-2-yl)-1-methyl-1H-indole
2-Chloro-6-iodopyridine (400 mg, 1.67 mmol), N-methylindole-2-boronic acid (292 mg, 1.67 mmol), tetrakis(triphenylphosphine)palladium (0) (154 mg, 0.13 mmol) and Na2CO3 (442 mg, 4.18 mmol) were dissolved in water (10 mL) and dioxane (10 mL) and heated using a microwave (110° C., absorption high) for 1 h. The solvents were removed in vacuo and the residue was partitioned between DCM (50 mL) and water (30 mL). The aq fraction was extracted with DCM (30 mL) and the combined organic fractions were dried (MgSO4) and concentrated in vacuo to give the crude title compound (406 mg) as a brown gum. LCMS (ES+): 243.2 [MH]+.

reactant | 2-Chloro-6-iodopyridine | 1.67 mmol, 400 mg | ClC1=NC(=CC=C1)I | C5H3ClIN
reactant | N-methylindole-2-boronic acid | 1.67 mmol, 292 mg | CN1C(=CC2=CC=CC=C12)B(O)O | C9H10BNO2
reactant | Na2CO3 | 4.18 mmol, 442 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.13 mmol, 154 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(6-Chloropyridin-2-yl)-1-methyl-1H-indole | 406 mg | ClC1=CC=CC(=N1)C=1N(C2=CC=CC=C2C1)C | C14H11ClN2
